U21 reservoir candidate: added_f60_line0.9_esr0.1_imb0_phase90; 10 W constant-power regulator approximation
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
Vsecondary secp secn SIN(0 16.92 60 0 0 90)
Rsec1 secp acp .05
Rsec2 secn acn .05
Dbridge1 acp raw DSCH20100
Dbridge2 acn raw DSCH20100
Dbridge3 0 acp DSCH20100
Dbridge4 0 acn DSCH20100
Rc6 raw c6_stored 0.1
Cc6 c6_stored 0 8000u
Rc7 raw c7_stored 0.1
Cc7 c7_stored 0 8000u
Rdedicated buckin dedicated_stored 0.1
Cdedicated dedicated_stored 0 8000u
Disolate raw buckin DB560C
Rlamps raw 0 2.5
Rbleed raw 0 5000
Bbuck buckin 0 I=10/max(v(buckin),4.5)*min(max((time-20m)/10m,0),1)
.save v(raw) v(buckin) v(acp) @dbridge1[id] @dbridge2[id] @disolate[id] @cc6[i] @cc7[i] @cdedicated[i]
.options method=gear reltol=.0001 abstol=100n vntol=10u klu itl4=100
.tran 10u .5 0 10u uic
.control
set numdgt=12
run
let sim_end=time[length(time)-1]
print sim_end
meas tran input_min MIN v(buckin) from=.4 to=.5
meas tran input_max MAX v(buckin) from=.4 to=.5
meas tran bridge_peak MAX @dbridge1[id]
let bridge_i2=@dbridge1[id]^2
meas tran bridge_i2t_start INTEG bridge_i2 from=0 to=.03
let bridge_p=v(acp,raw)*@dbridge1[id]
meas tran bridge_power AVG bridge_p from=.4 to=.5
meas tran rms_c6 RMS @cc6[i] from=.4 to=.5
meas tran rms_c7 RMS @cc7[i] from=.4 to=.5
meas tran rms_dedicated RMS @cdedicated[i] from=.4 to=.5
let isolate_power=v(raw,buckin)*@disolate[id]
meas tran isolate_peak MAX @disolate[id]
meas tran isolate_power_avg AVG isolate_power from=.4 to=.5
.endc
.end
